US04618683
6-Bromo-2-hydroxy-3-methoxybenzaldehyde
A solution of 3-bromo-2-formyl-6-methoxyphenylmethyl carbonate (100 g, 0.34 mole), 500 mL 10% aqueous NaOH, and 2 L MeOH was stirred at reflux for 2 hours. After cooling to room temperature, the MeOH was removed (in-vacuo). The aqueous solution was cooled to 0° and acidified with concentrated HCl. The solid was filtered, washed with water, and dried (in-vacuo) to yield 107 g yellow solid which was recrystallized from 2-propanol to yield 62 g yellow solid; mp 95°-6°; M+ 230.

reactant | 3-bromo-2-formyl-6-methoxyphenylmethyl carbonate | 0.34 mole, 100 g | C(OCC1=C(C(=CC=C1OC)Br)C=O)([O-])=O
reactant | NaOH | 500 mL | [OH-].[Na+]
solvent | MeOH | 2 L | CO | CH4O
product | 6-Bromo-2-hydroxy-3-methoxybenzaldehyde | 107 g | BrC1=CC=C(C(=C1C=O)O)OC | C8H7BrO3
